US06028195
1-[(2-Methoxy-6-methyl-5-propylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
Phenyl N-(2-methoxy-6-methyl-5-propylpyridin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(2-methoxy-6-methyl-5-propylpyridin-3-yl)carbamate | COC1=NC(=C(C=C1NC(OC1=CC=CC=C1)=O)CCC)C | C17H20N2O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(2-Methoxy-6-methyl-5-propylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 71% | COC1=NC(=C(C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CCC)C | C22H30N4O3
